US05332736
2-[(Bis-formyl)amino]-1-[5-(4-chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-ethanone (15)
A solution of 10 g (0.034 mole) of 2-chloro-1-[5-(4-chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-ethanone and 3.8 g (0.041 mole) sodium diformylamide in 80 mL acetonitrile was heated under reflux overnight under argon. An additional 2.0 g portion of sodium diformylamide was added and reflux was continued for 1.5 hrs. After evaporation of the solvent in vacuo the residue was passed through a flash column (silica gel, 3:1 hexane:acetone the 2:1 hexane:acetone) to give 6.18 g of a solid. mp 279°-282° C. 260° C. decomp. mass spectrum (Cl--CH4) m/z=333 (M+1). NMR 300 MHz (CDCl3) d 9.0 (s, 2H); 7.8 (d, 2H); 7.55 (s, 1H); 7.45 (d, 2H); 7.1 (s, 1H); 4.85 (s, 2H); 4.1 (s, 3H).

reactant | 2-chloro-1-[5-(4-chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-ethanone | 0.034 mole, 10 g | ClCC(=O)C1=CN(C(=C1)C(C1=CC=C(C=C1)Cl)=O)C | C14H11Cl2NO2
reactant | sodium diformylamide | 0.041 mole, 3.8 g | C(=O)[N-]C=O.[Na+]
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 2-[(Bis-formyl)amino]-1-[5-(4-chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-ethanone | 6.18 g | C(=O)N(CC(=O)C1=CN(C(=C1)C(C1=CC=C(C=C1)Cl)=O)C)C=O | C16H13ClN2O4
